US05559111
c) 5-Benzyloxy-7-hydroxymethyl-1,4-benzodioxane
A solution of 1.28 g of 5-benzyloxy-1,4-benzodioxane-7-carboxylic acid ethyl ester in 5 ml of tetrahydrofuran is added dropwise at room temperature to a solution of 110 mg of lithium aluminium hydride in 10 ml of tetrahydrofuran and the mixture is stirred at room temperature for a further 30 minutes. Then 0.22 ml of ethyl acetate, 1.5 ml of a mixture (water/tetrahydrofuran=1:1) and finally 2.25 ml of 2N sulfuric acid are added dropwise in succession. The reaction mixture is partitioned between diethyl ether and water. The organic phases are dried over sodium sulfate and concentrated by evaporation. The title compound is obtained from the residue by FC (240 g of silica gel, ethyl acetate/hexane=1:2): Rf (ethyl acetate-hexane=1:2)=0.18.

reactant | 5-benzyloxy-1,4-benzodioxane-7-carboxylic acid ethyl ester | 1.28 g | C(C)OC(=O)C=1C=C(C2=C(OCCO2)C1)OCC1=CC=CC=C1 | C18H18O5
reactant | lithium aluminium hydride | 110 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 0.22 ml | C(C)(=O)OCC | C4H8O2
reactant | sulfuric acid | 2N, 2.25 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-Benzyloxy-7-hydroxymethyl-1,4-benzodioxane | C(C1=CC=CC=C1)OC1=CC(=CC=2OCCOC21)CO | C16H16O4
